US08067448B2
3-chloro-N′-((2R,3R)-2-(3-chloro-4-cyano-2-methylphenylamino)-3-hydroxybutanoyl)-4-hydroxybenzohydrazide
To a 50 mL round bottom flask was added (2R,3R)-2-(3-chloro-4-cyano-2-methylphenylamino)-3-hydroxybutanoic acid (1.00 g, 3.73 mmol, 1.0 equiv.) and anhydrous THF (18.7 mL). After the flask was flushed with nitrogen, 3-chloro-4-hydroxybenzoic hydrazide (766 mg, 4.11 mmol, 1.1 equiv.) was added. The stirring solution was cooled to −20° C., and 1-hydroxybenzotriazole (HOBt) (555 mg, 4.11 mmol, 1.1 equiv.) was added in one portion, followed by 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide (EDC) (1.79 g, 9.33 mmol, 2.5 equiv.) and then triethylamine (TEA) (2.08 mL, 14.9 mmol. 4.0 equiv.). The solution was stirred at −20° C. for 1 h and gradually warmed to room temperature overnight. The contents of the flask were filtered over Celite® in a ground glass fritted funnel to remove solids formed during the reaction. The solution was diluted with 50 mL of EtOAc. The EtOAc solution was washed with 5% citric acid solution (w/v) (2×50 mL), distilled water (2×50 mL), and brine (1×50 mL). The organic layer was dried over Na2SO4 and then concentrated in vacuo to yield a light yellow solid. The product was purified via automated flash chromatography (0→50% EtOAc/hexanes→100% EtOAc, 24 g of silica gel; TLC Rf=0.38, 100% EtOAc, vanillin stain) to provide the desired product as an off-white solid (870 mg, 53% yield). Other data: 1H NMR (400 MHz, acetone-d6, δ in ppm) 7.96 (d, J=2.2 Hz, 1H), 7.79 (dd, J=2.19, 8.49 Hz, 1H), 7.53 (d, J=8.65 Hz, 1H), 7.105 (d, J=8.5 Hz, 1H), 6.72 (d, J=8.65 Hz, 1H), 5.58 (d, J=7.18 Hz, 1H), 4.22 (m, 1H), 4.11 (dd, J=5.13, 7.18 Hz, 1H), 2.35 (s, 3H), 1.37 (d, J=6.45 Hz, 3H); LRMS (ESI−) exact mass calcd for C19H18Cl2N4O4 [M]+ 437.28. found 438.1.

reactant | (2R,3R)-2-(3-chloro-4-cyano-2-methylphenylamino)-3-hydroxybutanoic acid | 3.73 mmol, 1.00 g, 1.0 equiv. | ClC=1C(=C(C=CC1C#N)N[C@@H](C(=O)O)[C@@H](C)O)C | C12H13ClN2O3
reactant | 3-chloro-4-hydroxybenzoic hydrazide | 4.11 mmol, 766 mg, 1.1 equiv. | ClC=1C=C(C(=O)NN)C=CC1O | C7H7ClN2O2
reactant | 1-hydroxybenzotriazole | 4.11 mmol, 555 mg, 1.1 equiv. | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide | 9.33 mmol, 1.79 g, 2.5 equiv. | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | triethylamine | 14.9 mmol, 2.08 mL, 4.0 equiv. | C(C)N(CC)CC | C6H15N
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | THF | 18.7 mL | C1CCOC1 | C4H8O
product | 3-chloro-N′-((2R,3R)-2-(3-chloro-4-cyano-2-methylphenylamino)-3-hydroxybutanoyl)-4-hydroxybenzohydrazide | 870 mg, 53% yield | ClC=1C=C(C(=O)NNC([C@@H]([C@@H](C)O)NC2=C(C(=C(C=C2)C#N)Cl)C)=O)C=CC1O | C19H18Cl2N4O4
